Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / hydroxychloroquine / oxycodone / Penicillins / opioid 
analgesic
 
Attending: ___.
 
Chief Complaint:
Acute Blood Loss Anemia, GI Bleeding
 
Major Surgical or Invasive Procedure:
___ upper endoscopy

 
History of Present Illness:
___ year old Female with a history of peptic ulcer disease s/p 
gastrectomy ___ years prior, and GERD who presents with coffee 
grounds emesis. Of note she was just discharged from ___ 
on ___ for similar symptoms; She underwent an EGD during 
that admission, notable for a medium sized hiatal hernia, 
enlarged serpiginous folds with benign overlying mucosa, no 
bleeding, possible gastric varices and concern for ___ 
infection. 

She was discharged from ___ on nystatin and omeprazole. 
at home her hematemesis recurred, she presented to ___ 
and was transferred to ___ for further care. After arrival at 
___ she was placed on IV PPI and given IVF. No further 
hematemesis since arrival.
 
Past Medical History:
- Lupus (reports having had multiple hospitalizations when she 
was ___ years old. Was on steroids for a period of time but 
not on treatment currently as it is under better control. 
Reports that her lupus complications were skin issues, 
arthritis, GI upset, finger discoloration and proteinuria.) 
 - on lisinopril for her "lupus". Has had proteinuria in the 
past. No history of kidney bx.  
 - GERD  
 - h/o PUD s/p resection at ___ approximately ___ years a go  
 - diverticulosis, diverticulitis  
 - h/o esophagitis
 
Social History:
___
Family History:
No family history of peptic ulcer disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VSS: 98.1, 91/47, 98, 18, 97%
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: NT/ND, - guarding, - rebound, +BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, Non-Focal

DISCHARGE PHYSICAL EXAM
=======================
VITALS:  98.2, 97/65, 100, 18, 92% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear with one white 
plaque on roof of mouth, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD, blanchable erythema  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, mild tenderness in epigastric region, 
non-distended, bowel sounds present, no organomegaly, no rebound 
or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema;  joint deformities in hands b/l  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation 
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:55AM BLOOD WBC-6.8 RBC-3.22* Hgb-9.7* Hct-28.4* 
MCV-88 MCH-30.1 MCHC-34.2 RDW-13.0 RDWSD-41.7 Plt ___
___ 03:36PM BLOOD WBC-7.9 RBC-3.71* Hgb-11.3 Hct-32.9* 
MCV-89 MCH-30.5 MCHC-34.3 RDW-12.9 RDWSD-41.8 Plt ___
___ 03:36PM BLOOD Neuts-76.3* Lymphs-13.1* Monos-8.1 
Eos-1.3 Baso-0.9 Im ___ AbsNeut-6.06 AbsLymp-1.04* 
AbsMono-0.64 AbsEos-0.10 AbsBaso-0.07
___ 05:55AM BLOOD ___ PTT-27.6 ___
___ 03:36PM BLOOD ___ PTT-29.7 ___
___ 05:55AM BLOOD Glucose-90 UreaN-12 Creat-0.5 Na-134 
K-3.6 Cl-100 HCO3-25 AnGap-13
___ 03:36PM BLOOD Glucose-92 UreaN-16 Creat-0.6 Na-137 
K-4.0 Cl-99 HCO3-25 AnGap-17
___ 03:36PM BLOOD ALT-19 AST-17 AlkPhos-77 TotBili-0.2
___ 03:36PM BLOOD Lipase-29
___ 05:55AM BLOOD Calcium-8.5 Phos-2.6* Mg-1.8
___ 03:36PM BLOOD Albumin-4.2
___ 03:13PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:13PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:13PM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE Epi-0

MICROBIOLOGY
============
___ 3:13 pm URINE CULTURE - negative 

STUDIES
=======
Impression: Moderate esophagitis from mid-to-distal esophagus 
suspicious for ___. This has been recently biopsied with 
results pending.
Erosion in the gastroesophageal junction
Thick gastric folds (biopsy)
Narrowing at the body of stomach, presumably due to prior known 
ulcer surgery. Gastroscope easily traversed.
Radial EUS was performed to evaluate the thickened gastric folds 
and to rule out gastric varices. The gastric wall layers in this 
area were slightly thickened, but not mass or varices were seen. 


Recommendations: Will follow up biopsy report and inform patient
GI bleeding likely related to significant esophagitis. Relative 
narrowing in stomach may contribute to reflux. High dose PPI and 
will await prior esopaphageal biopsies to rule out concurrent 
___.
Abnormal thickening of the stomach has been present for years, 
dating back to at least ___ per available ___ 
records. Overall this likely represents thickened folds related 
to the prior ulcer surgery.
Antireflux regimen: Avoid chocolate, peppermint, alcohol, 
caffeine, onions, aspirin. Elevate the head of the bed 3 inches. 
Go to bed with an empty stomach. 

DISCHARGE LABS
==============
___ 05:55AM BLOOD WBC-6.6 RBC-3.41* Hgb-10.4* Hct-30.0* 
MCV-88 MCH-30.5 MCHC-34.7 RDW-12.9 RDWSD-41.1 Plt ___
___ 05:55AM BLOOD Glucose-81 UreaN-11 Creat-0.6 Na-138 
K-3.5 Cl-101 HCO3-26 AnGap-15
___ 05:55AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.9
___ 03:35PM BLOOD HIV Ab-Negative
 
Brief Hospital Course:
Ms. ___ is a ___ y/o female with a past medical history of a 
lupus, gastric ulcer s/p removal at ___ (approximately ___ years 
ago), GERD who presented to the ED with hematemesis, found to 
have presumed ___ esophagitis.

ACTIVE ISSUES
1. Acute Blood Loss Anemia due to GI Bleeding. 
Patient was recently hospitalized at ___ with coffee 
ground emesis and was found to have esophagitis c/f ___. 
Also found to have findings initially concerning for gastric 
varices. There was no evidence of hemorrhage at that time. 
Repeat EGD at ___ showed evidence of esophagitis and erosion 
at the GE junction consistent with possible ___ tear; 
likely source of UGIB was esophagitis.  Significant gastric 
folds were present but stable from prior EGDs; endoscopic 
ultrasound only demonstrated soft tissue with no evidence of 
gastric varices concerning for any underlying liver disease.  
The patient's serial Hgb/Hct were stable at baseline (___) and 
she was treated with antiemetics and high dose PPI.  Patient 
continued on these supportive treatments with follow-up with 
outpatient GI.

2. Candidal Esophagitis.  
Presumed ___ esophagitis given EGD findings. Patient 
continued on nystatin and started on fluconazole (anticipated 2 
week course, last day ___.  HIV was negative.  Unclear why 
the patient might have ___ esophagitis as she does not 
appear to be immunosuppressed and lupus is in remission.  EGD 
biopsy results pending at discharge.

CHRONIC ISSUES  
# H/o proteinuria: Held lisinopril for now in the setting of 
UGIB and lower BPs.  Continued to hold lisinopril at discharge 
given systolic BPs in the ___.
 
# Lupus: In remission.  Currently not on medications.

***TRANSITIONAL ISSUES***
- Antireflux regimen: (Avoid chocolate, peppermint, alcohol, 
caffeine, onions, aspirin. Elevate the head of the bed 3 inches. 
Go to bed with an empty stomach.)
- Holding lisinopril given normotension 
- Last day of fluconazole/nystatin (last day on ___
- PCP to ___ PPI regimen based on symptoms
- Need to f/u esophageal tissue biopsies obtained at ___ and 
at ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Nystatin Oral Suspension 5 mL PO QID 
2. Lisinopril 5 mg PO DAILY 
3. Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral DAILY 
4. Omeprazole 20 mg PO BID 
5. Multivitamins 1 TAB PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Cyclobenzaprine 5 mg PO DAILY:PRN spasm 

 
Discharge Medications:
1. Nystatin Oral Suspension 5 mL PO QID 
2. Fluconazole 200 mg PO Q24H 
Last day ___ 
RX *fluconazole 200 mg 1 tablet(s) by mouth q24h Disp #*12 
Tablet Refills:*0
3. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*24 Tablet Refills:*0
4. Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral DAILY 
5. Cyclobenzaprine 5 mg PO DAILY:PRN spasm 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*36 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary:
esophagitis
upper gastrointestinal bleeding

secondary:
gastroesophageal reflux disease
hiatal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital for upper 
gastrointestinal bleeding.  You underwent a repeat upper 
endoscopy which showed that the likely source of your bleeding 
is esophagitis.  You also had a small erosion of the tissue at 
the junction of your esophagus and stomach, likely due to your 
vomiting.  You had no evidence of any gastric varices or 
bleeding in your stomach.  You were started on an oral 
antifungal medication called fluconazole.  You will also need to 
take more potent antacid medication which we started you on.  We 
also monitored your blood counts and they were completely 
stable; you also had no recurrent bleeding while hospitalized.

Of note, because your blood pressure was lower than normal, you 
should stop taking your lisinopril until instructed otherwise by 
your primary care physician.

Please follow-up with your outpatient providers as instructed 
below.

Thank you for allowing us to participate in your care.  All best 
wishes for your recovery.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___